US04329365
p-Cresol (190 g; 1.76 mol), potassium-tert-butoxide (220.2 g; 1.93 mol) and t-butanol (from calcium hydride; 1 l) were stirred at room temperature, under nitrogen, for 15 mins; followed by the dropwise addition of p-fluoronitrobenzene (272.7 g; 1.93 mol). After heating at reflux for 18 hours, followed by cooling, the resulting yellow precipitate was removed by filtration and washed with absolute ethanol. The combined filtrate and washings were evaporated on the Buchi and the residue taken up in benzene (4 l). The combined benzene layers were dried over magnesium sulphate and evaporated to yield a yellow residue which was recrystallised from hexane (2 l) to give 4-(4-nitrophenoxy)toluene as a yellow solid. m.p. 65°-66° C. NMR (CDCl3): 8.01 (d, 2H), 7.5 (q, 6H) and 2.31 (s, 3H). Analysis for C13H11NO3 : Calculated: C, 68.10, H, 4.84, N, 6.11; found: C, 68.13; H, 4.87; N, 6.14.

reactant | p-Cresol | 1.76 mol, 190 g | C1=CC(=CC=C1O)C | C7H8O
reactant | potassium-tert-butoxide | 1.93 mol, 220.2 g | CC(C)([O-])C.[K+]
reactant | p-fluoronitrobenzene | 1.93 mol, 272.7 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | t-butanol | 1 l | C(C)(C)(C)O | C4H10O
product | 4-(4-nitrophenoxy)toluene | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)C)C=C1 | C13H11NO3
